US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(E)-4-chloro-2-butenyl]-2-(2-naphthylmethyl)piperazine (300 mg), thiomorpholine (0.054 ml) and powdered potassium carbonate (100 mg) in dry acetonitrile (3 ml) was heated at 50° C. for 10 hours. Additional potassium carbonate (100 mg) and thiomorpholine (0.054 ml) were added and then the resulting mixture was further heated at the same temperature. After 2 hours, the reaction mixture was cooled and then filtered. The filtrate was concentrated under reduced pressure and the resulting residue was purified by column chromatography on silica gel using a mixture of dichloromethane and methanol (40:1). The obtained product was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate (0.6 ml) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-((E)-4-thiomorpholino-2-butenyl)piperazine dihydrochloride (190 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(E)-4-chloro-2-butenyl]-2-(2-naphthylmethyl)piperazine | 300 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\CCl)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C28H25ClF6N2O
reactant | thiomorpholine | 0.054 ml | N1CCSCC1 | C4H9NS
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | thiomorpholine | 0.054 ml | N1CCSCC1 | C4H9NS
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-((E)-4-thiomorpholino-2-butenyl)piperazine dihydrochloride | 190 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\CN2CCSCC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H33F6N3OS.2ClH/c33-31(34,35)27-19-26(20-28(21-27)32(36,37)38)30(42)41-12-11-40(10-4-3-9-39-13-15-43-16-14-39)22-29(41)18-23-7-8-24-5-1-2-6-25(24)17-23;;/h1-8,17,19-21,29H,9-16,18,22H2;2*1H/b4-3+;;/t29-;;/m1../s1
